US06211199B1
24.6 Synthesis of 1-(3,4,5-trimethoxybenzoyl)-3-(2-(4-(1-(2-ethoxyethyl)-1H-benzimidazol-2-yl-amino)piperidin-1-yl)ethyl)-3-(4-fluorophenyl)pyrrolidine
Prepare by the method of Example 16.7 using 1-(3,4,5-trimethoxybenzoyl)-3-(4-fluorophenyl)-3-(2-methanesulfonyloxyethyl)pyrrolidine (1.0 g, 3.5 mmol) and (1-(2-ethoxyethyl)-1H-benzimidazol-2-yl)(piperidin-4-yl)amine (1.6 g, 1.6 mmol). Purify by chromatography on silica gel eluting with 2% triethylamine/10% methanol/ethyl acetate to give the title compound: mp; 217-220° C. Rf=0.38 (silica gel, 2% triethylamine/5% methanol/ethyl acetate).

reactant | 1-(3,4,5-trimethoxybenzoyl)-3-(4-fluorophenyl)-3-(2-methanesulfonyloxyethyl)pyrrolidine | 3.5 mmol, 1.0 g | COC=1C=C(C(=O)N2CC(CC2)(CCOS(=O)(=O)C)C2=CC=C(C=C2)F)C=C(C1OC)OC | C23H28FNO7S
reactant | (1-(2-ethoxyethyl)-1H-benzimidazol-2-yl)(piperidin-4-yl)amine | 1.6 mmol, 1.6 g | C(C)OCCN1C(=NC2=C1C=CC=C2)NC2CCNCC2 | C16H24N4O
product | 1-(3,4,5-trimethoxybenzoyl)-3-(2-(4-(1-(2-ethoxyethyl)-1H-benzimidazol-2-yl-amino)piperidin-1-yl)ethyl)-3-(4-fluorophenyl)pyrrolidine | COC=1C=C(C(=O)N2CC(CC2)(C2=CC=C(C=C2)F)CCN2CCC(CC2)NC2=NC3=C(N2CCOCC)C=CC=C3)C=C(C1OC)OC | C38H48FN5O5
